US08293768B2
Synthesis of 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl methanesulfonate
To the solution of 2-(1-(2-hydroxyethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (0.20 g, 0.56 mmol) and triethylamine (0.15 mL, 1.11 mmol) in anhydrous tetrahydrofuran (10 mL) was added dropwise methanesulfonyl chloride (0.08 g, 0.67 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 3 hours, diluted with ethyl acetate (15 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulphate, filtered and concentrated in vacuo to afford the title compound as a yellow solid in 70% yield (0.17 g): 1H NMR (300 MHz, CDCl3) δ 8.60 (s, 1H), 8.55-8.51 (m, 1H), 8.31 (s, 1H), 7.72-7.66 (m, 1H), 7.31-7.25 (m, 1H), 6.26 (t, J=5.8 Hz, 1H), 4.60 (d, J=5.8 Hz, 2H), 4.54 (t, J=5.1 Hz, 2H), 4.19 (t, J=5.1 Hz, 2H), 3.02 (s, 3H), 2.65 (s, 3H); MS (ES+) m/z 439.2 (M+1).

reactant | 2-(1-(2-hydroxyethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.56 mmol, 0.20 g | OCCN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C15H16N6O3S
reactant | triethylamine | 1.11 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.67 mmol, 0.08 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-(4-methyl-5-(pyridin-3-ylmethylcarbamoyl)thiazol-2-yl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl methanesulfonate | 70% yield | CS(=O)(=O)OCCN1N=CN(C1=O)C=1SC(=C(N1)C)C(NCC=1C=NC=CC1)=O | C16H18N6O5S2
